US06518257B1
(ii) Production of 1-(3′-methoxy[1,1′-biphenyl]-4-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
By the reaction in the same manner as in Example 4-(iii) using 1-(3′-methoxy[1,1′-biphenyl]-4-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (960 mg) and pyridine hydrochloride (354 mg), the colorless amorphous title compound (483 mg) was obtained.

reactant | 1-(3′-methoxy[1,1′-biphenyl]-4-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 960 mg | COC=1C=C(C=CC1)C1=CC=C(C=C1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H36N2O2
reactant | pyridine hydrochloride | 354 mg | Cl.N1=CC=CC=C1
product | 1-(3′-methoxy[1,1′-biphenyl]-4-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 483 mg | COC=1C=C(C=CC1)C1=CC=C(C=C1)C(C(C)C)(O)C=1N=CNC1 | C20H22N2O2
